US08293762B2
A solution of β-alanine ethylester hydrochloride (13.8 g, 90 mmol) in dichloromethane (90 mL) and triethylamine (TEA, 13.8 mL, 99 mmol) was stirred at room temperature for 1 hour. More TEA (13.8 mL, 99 mmol) was added, the solution was cooled to 0° C. under stirring and ethylmalonylchloride (12.6 mL, 99 mmol) was added dropwise. After 1 hour at 0° C., the reaction mixture was stirred 1 hour at room temperature. A 15% aqueous solution of K2CO3 (90 mL) was added and the layers were separated. The organic phase was washed with 10% HCl (90 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material was chromatographed on flash silica gel (450 g, eluant: ethyl acetate/n-hexane 2:1) to give N-(2-ethoxycarbonyl-ethyl)-malonamic acid ethyl ester as a yellow oil (15 g, 64.9 mmol, 72% yield). Sodium metal (610 mg, 26.6 mmol) was dissolved in dry MeOH (25 mL) at room temperature under stirring and inert atmosphere. After complete dissolution the mixture was stirred 10′ longer, then N-(2-ethoxycarbonyl-ethyl)-malonamic acid ethyl ester (6.15 g, 26.6 mmol) in dry toluene (150 mL) was added dropwise. After addition, the reaction mixture was stirred at 90° C. for 6 hours, cooled to room temperature, water (30 mL) was added and the layers were separated. The organic phase was washed with water (2×10 mL), the combined aqueous phases were acidified with 37% HCl and extracted thoroughly with a mixture of DCM/MeOH (5:1). After drying over Na2SO4 and concentration, 3-methoxycarbonylpiperidin-2,4-dione as a pink solid was obtained (4 g, 88% yield). 3-Methoxycarbonylpiperidin-2,4-dione (4 g, 23.4 mmol) was dissolved in acetonitrile containing 1% of water (250 mL) and refluxed for 4 hours. The reaction mixture was concentrated to give the title compound, as a yellow solid (2.4 g, 90% yield).

reactant | Sodium | 26.6 mmol, 610 mg | [Na] | Na
reactant | N-(2-ethoxycarbonyl-ethyl)-malonamic acid ethyl ester | 26.6 mmol, 6.15 g | C(C)OC(CC(=O)NCCC(=O)OCC)=O | C10H17NO5
reactant | water | 30 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxycarbonylpiperidin-2,4-dione | 88% yield | COC(=O)C1C(NCCC1=O)=O | C7H9NO4
